US04716222
Preparation of N-toluenesulfonyl-L-alanine (tosylalanine)
0.01 mol of L-alanine were dissolved in 20 ml of 1-molar sodium hydroxide solution, a solution of 0.01 mol of p-toluenesulfonyl chloride in 10 ml of diethyl ether was added, and the mixture was vigorously stirred for 4 h. The ether phase was separated off, and the aqueous phase was acidified to pH 3 with concentrated hydrochloric acid. The crude n-toluenesulfonyl-1-alanine started to crystallize (cooling to 4° C. where necessary) and was filtered off and recrystallized from 60% by volume aqueous alcohol. Melting point 130°-131° C.

reactant | L-alanine | 0.01 mol | N[C@@H](C)C(=O)O | C3H7NO2
reactant | p-toluenesulfonyl chloride | 0.01 mol | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | sodium hydroxide | 1-molar, 20 ml | [OH-].[Na+]
product | N-toluenesulfonyl-L-alanine | C=1(C(=CC=CC1)S(=O)(=O)N[C@@H](C)C(=O)O)C | C10H13NO4S
